US07713982B2
b) (8-chloro-2,6-dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-1-yl)acetonitrile
A solution of 8-chloro-7-(2-propen-1-yl)-3-propyl-3,7-dihydro-1H-purine-2,6-dione (0.067 g, 0.25 mmol) in DMF (2 ml) was treated with caesium carbonate (0.082 g, 0.25 mmol) and bromoacetonitrile (0.044 g, 0.37 mmol). The mixture was heated at 80° C. for 4 hours then cooled to ambient temperature. The DMF was removed in vacuo and the residue treated with THF (2 ml). The solvent was degassed by the successive application of vacuum and nitrogen pressure to the reaction mixture. The mixture was then treated with morpholine (0.035 ml, 0.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.03 g, 0.026 mmol). After 2 hours the mixture was treated with 2M aqueous hydrochloric acid (2 ml) and the product extracted with chloroform (3×5 ml). The organic fractions were combined and evaporated. The residue was subjected to purification by mass-directed HPLC to afford the title compound as a white solid (0.022 g, 33%). NMR; δH (400 MHz, d6-DMSO), 0.88 (t, 3H, J=7.5 Hz), 1.63-1.74 (m, 2H), 3.91 (t, 2H, J=7.5 Hz), 4.87 (s, 2H), NH not observed to δH 14; m/z 268 [MH+].

reactant | 8-chloro-7-(2-propen-1-yl)-3-propyl-3,7-dihydro-1H-purine-2,6-dione | 0.25 mmol, 0.067 g | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCC | C11H13ClN4O2
reactant | caesium carbonate | 0.25 mmol, 0.082 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetonitrile | 0.37 mmol, 0.044 g | BrCC#N | C2H2BrN
reactant | morpholine | 0.4 mmol, 0.035 ml | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | 2M, 2 ml | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (8-chloro-2,6-dioxo-3-propyl-2,3,6,7-tetrahydro-1H-purin-1-yl)acetonitrile | 0.022 g, 33% | ClC1=NC=2N(C(N(C(C2N1)=O)CC#N)=O)CCC | C10H10ClN5O2
